US03972890
A mixture of 678 g (6 mols) of caprolactam, 865 g (8 mols) of o-phenylene diamine and 60 g of p-toluene sulphonic acid is melted in a nitrogen atmosphere, 108 g of water distilling off over a period of 6 hours at an internal temperature of 200° to 250°C. The reaction mixture is then subjected to fractional distillation under reduced pressure, giving 1003 g (82.4 % of the theoretical) of 2-(5'-aminopentyl)- benzimidazole with boiling point of 210° to 215°C at 0.05 Torr, and a melting point of 101°C.

reactant | caprolactam | 6 mols, 678 g | C1(CCCCCN1)=O | C6H11NO
reactant | o-phenylene diamine | 8 mols, 865 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | p-toluene sulphonic acid | 60 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 108 g | O | H2O
product | 2-(5'-aminopentyl)- benzimidazole | NCCCCCC=1NC2=C(N1)C=CC=C2 | C12H17N3
